US05412117
To a mixture of 1.04 g of 4-cyano-6-nitro-2,2-dimethyl-2H-1-benzopyran and 20 ml of ethyl alcohol was added hydrogen chloride with stirring and cooling with ice. After being saturated with hydrogen chloride, the mixture was further stirred at 5° C. for 6 days. The reaction mixture was concentrated, and to the residue was added a 1:1 mixture of diethyl ether and ethyl alcohol. After trituration, the crystal was collected by filtration, washed with a mixture of ethyl alcohol and diethyl ether, and dried to obtain 1.13 g of 6-nitro-2,2-dimethyl-2H-1-benzopyran-4-carboximidic acid ethyl ester hydrochloride. A mixture of 0.94 g of the resulting compound, 0.31 g of triethylamine, 0.13 g of cyanamide, and 7 ml of ethyl alcohol was stirred at room temperature for 6 hours, followed by concentration. Water was added to the residue, and the mixture was extracted with dichloromethane. The extract was washed with 2N hydrochloric acid, dried over magnesium sulfate, and subjected to silica gel column chromatography (AcOEt:n-hexane=1:1) to isolate three components having different polarity. The component of the lowest polarity was recrystallized from a mixture of diethyl ether and n-hexane to obtain 0.15 g of 6-nitro-2,2-dimethyl-2H-1-benzopyran-4-carboxylic acid ethyl ester represented by formula shown below.

reactant | 4-cyano-6-nitro-2,2-dimethyl-2H-1-benzopyran | 1.04 g | C(#N)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)C | C12H10N2O3
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl alcohol | 20 ml | C(C)O | C2H6O
product | 6-nitro-2,2-dimethyl-2H-1-benzopyran-4-carboximidic acid ethyl ester hydrochloride | 1.13 g | Cl.C(C)OC(=N)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)C | InChI=1S/C14H16N2O4.ClH/c1-4-19-13(15)11-8-14(2,3)20-12-6-5-9(16(17)18)7-10(11)12;/h5-8,15H,4H2,1-3H3;1H
